US06566360B1
4-Ethoxy-N-ethyl-N-(2-hydroxy-ethyl)-3-(5-ethyl-4-oxo-7-propyl-3,4-dihydro-imidazo[5,1-f][1,2,4]triazin-2-yl)benzenesulphonamide
0.64 g (1.5 mmol) of 4-ethoxy-3-(5-ethyl-4-oxo-7-propyl-3,4-dihydro-imidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride are dissolved in 20 ml of dichloromethane and cooled to 0° C. After addition of a spatula tip of dimethylaminopyridine, 0.40 g (4.50 mmol) of 2-(ethylamino)-ethanol are added, and the reaction mixture is stirred at room temperature overnight. The mixture is diluted with dichloromethane, the organic phase is washed with water and dried over sodium sulphate and the solvent is removed under reduced pressure. Chromatography (dichloromethane/methanol=95:5) gives 0.454 g (63%) of a colourless solid.

reactant | 4-ethoxy-3-(5-ethyl-4-oxo-7-propyl-3,4-dihydro-imidazo[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride | 1.5 mmol, 0.64 g | C(C)OC1=C(C=C(C=C1)S(=O)(=O)Cl)C1=NN2C(C(N1)=O)=C(N=C2CCC)CC | C18H21ClN4O4S
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2-(ethylamino)-ethanol | 4.50 mmol, 0.40 g | C(C)NCCO | C4H11NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-Ethoxy-N-ethyl-N-(2-hydroxy-ethyl)-3-(5-ethyl-4-oxo-7-propyl-3,4-dihydro-imidazo[5,1-f][1,2,4]triazin-2-yl)benzenesulphonamide | 0.454 g, 63% | C(C)OC1=C(C=C(C=C1)S(=O)(=O)N(CCO)CC)C1=NN2C(C(N1)=O)=C(N=C2CCC)CC | C22H31N5O5S
